US06953806B2
A solution of 27.9 g (86.7 mmol) trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-carbamic acid tert-butyl ester, 41 ml (434 mmol) acetic anhydride and 35 ml (434 mmol) of pyridine in 140 ml of dichloromethane was stirred at room temperature for 16 hours. The reaction-mixture was then taken up in ether and washed with 1N hydrogen chloride solution, sodium hydrogen carbonate solution and water. Then, the ether-phase was dried over magnesium sulfate and concentrated to yield 26.0 g crude trans-acetic acid 4-(2-tert-butoxycarbonylamino-ethyl)-cyclohexylmethyl ester as colorless viscous oil, MS: 200 [(M-(tert-butoxycarbonyl))H+].

reactant | trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-carbamic acid tert-butyl ester | 86.7 mmol, 27.9 g | C(C)(C)(C)OC(NCC[C@@H]1CC[C@H](CC1)CO)=O | C14H27NO3
reactant | acetic anhydride | 434 mmol, 41 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 434 mmol, 35 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | trans-acetic acid 4-(2-tert-butoxycarbonylamino-ethyl)-cyclohexylmethyl ester | 26.0 g | C(C)(C)(C)OC(=O)NCC[C@@H]1CC[C@H](CC1)COC(C)=O | C16H29NO4
